US05500453
A solution of 5.59 g of sodium (2-tert-butylethenyl)trimesitylborate in 50 ml of acetone was added to a solution of 5.00 g of diphenyl-p-fluorophenacylsulfonium perchlorate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 3.11 of diphenyl-p-fluorophenacylsulfonium-(2-tert-butylethenyl)trimesitylborate.

reactant | sodium (2-tert-butylethenyl)trimesitylborate | 5.59 g | C(C)(C)(C)C=C[B-](C1=C(C=C(C=C1C)C)C)(C1=C(C=C(C=C1C)C)C)C1=C(C=C(C=C1C)C)C.[Na+]
reactant | diphenyl-p-fluorophenacylsulfonium perchlorate | 5.00 g | Cl(=O)(=O)(=O)[O-].C1(=CC=CC=C1)[S+](CC(=O)C1=CC=C(C=C1)F)C1=CC=CC=C1
reactant | water | 200 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | diphenyl-p-fluorophenacylsulfonium (2-tert-butylethenyl)trimesitylborate | C1(=CC=CC=C1)[S+](CC(=O)C1=CC=C(C=C1)F)C1=CC=CC=C1.C(C)(C)(C)C=C[B-](C1=C(C=C(C=C1C)C)C)(C1=C(C=C(C=C1C)C)C)C1=C(C=C(C=C1C)C)C | InChI=1S/C33H44B.C20H16FOS/c1-21-15-24(4)30(25(5)16-21)34(14-13-33(10,11)12,31-26(6)17-22(2)18-27(31)7)32-28(8)19-23(3)20-29(32)9;21-17-13-11-16(12-14-17)20(22)15-23(18-7-3-1-4-8-18)19-9-5-2-6-10-19/h13-20H,1-12H3;1-14H,15H2/q-1;+1
